US06323235B1
7-acetoxy-3-((acetylamino)methyl)benzofuran
3-azidomethyl-7-methoxybenzofuran (325 mg) was dissolved in diethyl ether (10 ml) and the solution was cooled to 0° C. To this solution, lithium aluminum hydride (91 mg) was added and the resulting solution was stirred at 0° C. for 1 hour and then at room temperature for 1.5 hours. To the reaction solution, saturated aqueous sodium hydrogen carbonate was added and the solution was dried over magnesium sulfate, followed by filtration. After concentrating the filtrate, the residue was dissolved in dimethylformamide (7 ml). To this solution, potassium t-butoxide (415 mg) and n-propanethiol (0.34 ml) were added and the solution was stirred at 100° C. for 1.5 hours. After the reaction, the reaction solution was cooled to 0° C. and pyridine (1.2 ml) and acetyl chloride (1.05 ml) were added, followed by stirring the resulting solution for 40 minutes. The reaction solution was poured into water layer (30 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with 1N hydrochloric acid (20 ml) and with saturated brine, followed by drying the resultant over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: chloroform/methanol=95/5) using silica gel to obtain the desired compound (260 mg, yield: 66%).

reactant | 3-azidomethyl-7-methoxybenzofuran | 325 mg | N(=[N+]=[N-])CC1=COC2=C1C=CC=C2OC | C10H9N3O2
reactant | lithium aluminum hydride | 91 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | acetyl chloride | 1.05 ml | C(C)(=O)Cl | C2H3ClO
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
product | 7-acetoxy-3-((acetylamino)methyl)benzofuran | 260 mg, yield: 66% | C(C)(=O)OC1=CC=CC=2C(=COC21)CNC(C)=O | C13H13NO4
